US04070539
Step B: (1-Oxo-2-ethyl-2,7-dibromo-5-indanyloxy)-acetic Acid
A stirred suspension of (1-oxo-2-ethyl-7-bromo-5-indanyloxy)acetic acid in acetic acid is treated over a 10-minute period with a solution of bromine in acetic acid. The reaction mixture is stirred at ambient temperature for 0.5 hour and poured into water containing sodium bisulfite (1 g.). The (1oxo-2-ethyl-2,7-dibromo-5-indanyloxy)-acetic acid is extracted from the reaction mixture with ether, and the ether solution washed with water and dried over anhydrous magnesium sulfate. Removal of the solvent yields the products as an oil.

reactant | (1-oxo-2-ethyl-7-bromo-5-indanyloxy)acetic acid | O=C1C(CC2=CC(=CC(=C12)Br)OCC(=O)O)CC | C13H13BrO4
reactant | bromine | BrBr | Br2
reactant | water | O | H2O
reactant | sodium bisulfite | 1 g | S([O-])(O)=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (1-Oxo-2-ethyl-2,7-dibromo-5-indanyloxy)-acetic Acid | O=C1C(CC2=CC(=CC(=C12)Br)OCC(=O)O)(Br)CC | C13H12Br2O4
